US08431695B2
Preparation of 1-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]benzyl}pyrrolidin-3-ol
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-[3-(bromomethyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine (125 mg, 025 mmol) in DMF (1 mL) was added 3-pyrrolidinol (26 μL, 0.27 mmol), triethylamine (103 μl, 0.74 mmol), and sodium iodide (0.4 mg, 0.002 mmol). The reaction was heated (55° C.) for 17 h and then cooled to rt. The crude reaction mixture was purified via preparative HPLC using a gradient elution from 15% to 50% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 28 mg (22%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.57 (s, 1 H), 7.92-8.00 (m, 3 H), 7.83 (d, 1 H), 7.69 (d, 1 H), 7.25-7.44 (m, 7 H), 7.22 (dd, 1 H), 7.14 (s, 1 H), 5.67 (s, 2 H), 4.68 (d, 1 H), 4.09-4.21 (m, 1 H), 3.60 (q, 2 H), 2.65-2.72 (m, 1 H), 2.58 (q, 1 H), 2.37-2.46 (m, 1 H), 2.32 (dd, 1 H), 1.93-2.03 (m, 1 H), 1.48-1.59 (m, 1 H); ES-MS m/z 516.20 [M+H]+, HPLC RT (min) 2.53.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-[3-(bromomethyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 125 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC(=CC=C2)CBr | C27H21BrN6
reactant | 3-pyrrolidinol | 0.27 mmol, 26 μL | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 0.74 mmol, 103 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | sodium iodide | 0.002 mmol, 0.4 mg | [I-].[Na+]
product | 1-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]benzyl}pyrrolidin-3-ol | 28 mg, 22% | NC1=NC=NN2C1=C(C=C2C=2C=C(CN1CC(CC1)O)C=CC2)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C31H29N7O
